US07329755B2
(±)-trans-3-Methyl-4-[4-(2-methyl-benzoylamino)-naphthalene-1-sulfonylamino]-piperidine-1-carboxylic acid ethylamide (C-16)
The title compounds were made following general procedure in Scheme 5 and deprotection in scheme 4-1, substituting 4-(2-methyl-benzoylamino)-naphthalene-1-sulfonyl chloride for 4-benzoylamino-naphthalene-1-sulfonyl chloride, 4-amino-1-benzyl-3-methyl-piperidine for 4-amino-piperidine-1-carboxylic acid tert-butyl ester and ethyl isocyanate for 2-isocyanato-propane. 1H NMR (300 MHz, DMSO) δ 8.77 (d, 1H), 8.29 (d, 1H), 8.23 (d, 1H), 7.91 (d, 1H), 7.70 (m, 3H), 7.36 (m, 3H), 3.82 (m, 2H), 3.12 (q, 2H), 2.82 (m, 1H), 2.58 (m, 1H), 2.55 (s, 3H), 2.31 (t, 1H), 1.40 (m, 2H), 1.20 (m, 1H), 1.03 (t, 3H), 0.59 (d, 3H); LC/MS m/z 509 (M+H)+.

reactant | 4-benzoylamino-naphthalene-1-sulfonyl chloride | C(C1=CC=CC=C1)(=O)NC1=CC=C(C2=CC=CC=C12)S(=O)(=O)Cl | C17H12ClNO3S
reactant | 4-amino-1-benzyl-3-methyl-piperidine | NC1C(CN(CC1)CC1=CC=CC=C1)C | C13H20N2
reactant | 4-amino-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)N | C10H20N2O2
reactant | ethyl isocyanate | C(C)N=C=O | C3H5NO
reactant | 2-isocyanato-propane | N(=C=O)C(C)C | C4H7NO
product | (±)-trans-3-Methyl-4-[4-(2-methyl-benzoylamino)-naphthalene-1-sulfonylamino]-piperidine-1-carboxylic acid ethylamide | C(C)NC(=O)N1C[C@H]([C@@H](CC1)NS(=O)(=O)C1=CC=C(C2=CC=CC=C12)NC(C1=C(C=CC=C1)C)=O)C | C27H32N4O4S
